US07790756B2
To a solution of benzyl 6-(3-tert-butyl-5-(3-(2-fluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)phenyl)ureido)-1H-pyrazol-1-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (100 mg, 0.14 mmol) in methanol/EtOAc (1:1, 10 mL) was added 10% Pd/C. The solution was stirred overnight under H2 (1 atm) at RT. The solution was filtered and concentrated in vacuo to obtain 1-(3-tert-butyl-1-(1,2,3,4-tetrahydroisoquinolin-6-yl)-1H-pyrazol-5-yl)-3-(2-fluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)phenyl)urea (73 mg, 90% yield) 1H NMR (400 MHz, DMSO-d6) δ9.00 (brs, 1H), 8.02 (m, 1H), 8.35 (d, J=5.6 Hz, 1H), 8.25 (s, 1H), 8.15 (dt, J=2.4, and 8.8, 1H), 7.95 (s, 1H), 7.1-7.3 (m, 3H), 7.99 (m, 1H), 6.65 (m, 1H), 6.36 (d, J=2.8 Hz, 1H), 3.95 (m, 1H), 3.84 (s, 3H), 3.53 (m, 1H), 3.01 (m, 1H), 2.88 (m, 1H), 2.79 (m, 1H), 2.60 (m, 1H), 1.25 (s, 9H); MS (ESI) m/z: 581.3 (M+H+).

reactant | benzyl 6-(3-tert-butyl-5-(3-(2-fluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)phenyl)ureido)-1H-pyrazol-1-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.14 mmol, 100 mg | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C=1C=NN(C1)C)F)C=1C=C2CCN(CC2=CC1)C(=O)OCC1=CC=CC=C1 | C40H39FN8O4
solvent | methanol EtOAc | 10 mL | CO.CCOC(=O)C
catalyst | Pd/C | [Pd] | Pd
product | 1-(3-tert-butyl-1-(1,2,3,4-tetrahydroisoquinolin-6-yl)-1H-pyrazol-5-yl)-3-(2-fluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)phenyl)urea | 73 mg, 90% yield | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C=1C=NN(C1)C)F)C=1C=C2CCNCC2=CC1 | C32H33FN8O2
